US07910613B2
76: N-[5-(5-Methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-2-phenyl-acetamide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and phenyl-acetyl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | phenyl-acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-[5-(5-Methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-2-phenyl-acetamide | CC1=NC(=NO1)C1=C(N=C(S1)NC(CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H16N4O2S
